US06245746B1
(D) Nα-Benzyl-Nδ-Boc-Nα-Methylornithinyl 2-Naphthyl Ether
A μιξτυρε Oφ Nα-benzyl-Nδ-Boc-Nα-methylornithinol (168 mg), dichloromethane (10 ml), 2-naphthol (91 mg), triphenylphosphine (165 mg), and N,N′-diisopropylazodicarboxamide (124 μl) was stirred for 12 hrs at 25° C., under nitrogen. The reaction mixture was poured into dichloromethane and washed successively with saturated sodium bicarbonate and brine. The organic phase was then dried over anhydrous sodium sulfate and concentrated in vacuo. Further purification by flash chromatography gave the titled product (90 mg) as a white solid. 1H NMR (400 MHz, CDCl3) δ1.51 (s, 9H), 1.68 (m, 2H), 1.75 (m, 2H), 2.39 (s, 3H), 3.20 (m, 2H), 3.82 (d, J=13.3, 1H), 3.93 (d, J=13.2, 1H), 4.11 (dd, J=9.6; 3.6, 1H), 4.29 (dd, J=10.2; 8.4, 1H), 7.22 (m, 2H), 7.29 (t, J=7.8, 1H), 7.39 (m, 5H), 7.50 (t, J=8.0, 1H), 7.79 (m, 3H).

reactant | Nα-benzyl-Nδ-Boc-Nα-methylornithinol | 168 mg | C(C1=CC=CC=C1)N([C@@H](CCCNC(=O)OC(C)(C)C)CO)C | C18H30N2O3
reactant | 2-naphthol | 91 mg | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | triphenylphosphine | 165 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N,N′-diisopropylazodicarboxamide | 124 μl | C(C)(C)NC(=O)N=NC(=O)NC(C)C | C8H16N4O2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | Nα-Benzyl-Nδ-Boc-Nα-Methylornithinyl 2-Naphthyl Ether | 90 mg | C1=C(C=CC2=CC=CC=C12)OC([C@@H](N(C)CC1=CC=CC=C1)CCCNC(=O)OC(C)(C)C)=O | C28H34N2O4
